US07557131B2
Preparation 17: Piperidin-4-yl acetate
10% Pd/C (500 mg) was added to a solution of 1-benzylpiperidin-4-yl acetate [(11 g, 47 mmol), J. Org. Chem. 68(2), 613-616; 2003] in a mixture of ethanol and water (90:10, 110 mL), and the mixture was stirred at 60° C., under 60 psi of hydrogen gas for 18 hours. The reaction mixture was then filtered through Arbocel®, washing through with ethanol, and the filtrate was concentrated in vacuo to afford the title product in 92% yield, 7.2 g.

reactant | 1-benzylpiperidin-4-yl acetate | 47 mmol, 11 g | C(C)(=O)OC1CCN(CC1)CC1=CC=CC=C1 | C14H19NO2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | C(C)O | C2H6O
solvent | water | 110 mL | O | H2O
catalyst | Pd/C | 500 mg | [Pd] | Pd
product | Piperidin-4-yl acetate | 92% yield | C(C)(=O)OC1CCNCC1 | C7H13NO2
